US04284642
1-(2',4',6'-Trimethylphenyl)-2-imino-3-(2',6'-dimethylphenyl)-4-methyl-imidazolidine
1-(2',4',6'-Trimethylphenyl-amino)-2-(2',6'-dimethylphenyl-amino)-propane, applied as starting substance, is obtained with a yield of 65.6% by reacting N-(β-chloropropyl)-2,4,6-trimethyl-aniline, a compound prepared according to Example 16, point (b), with 2,6-dimethylaniline under the conditions given in Example 16, point (c). The hydrochloride of the product melts at 174°-177° C.

reactant | 1-(2',4',6'-Trimethylphenyl-amino)-2-(2',6'-dimethylphenyl-amino)-propane | CC1=C(C(=CC(=C1)C)C)NCC(C)NC1=C(C=CC=C1C)C | C20H28N2
reactant | N-(β-chloropropyl)-2,4,6-trimethyl-aniline | ClC(CNC1=C(C=C(C=C1C)C)C)C | C12H18ClN
reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | hydrochloride | Cl | ClH
product | 1-(2',4',6'-Trimethylphenyl)-2-imino-3-(2',6'-dimethylphenyl)-4-methyl-imidazolidine | yield of 65.6% | CC1=C(C(=CC(=C1)C)C)N1C(N(C(C1)C)C1=C(C=CC=C1C)C)=N | C21H27N3
